US08859584B2
5-aminocyclobutabenzen-1(2H)-one
To a solution of 5-nitrocyclobutabenzen-1(2H)-one (900 mg, 5.52 mmol) in ethanol (25 mL) under a stream of nitrogen was added palladium on carbon (587 mg, 10%, 0.55 mmol). The mixture was placed under a hydrogen atmosphere (balloon) and stirred at ambient temperature for 16 hours. The reaction vessel was charged with nitrogen and the mixture filtered (ethanol wash). The filtrate was concentrated and purified by chromatography (silica gel, 20% EtOAc/hexanes) to provide the title compound. MS (DCI/NH3) m/z 151 (M+NH4)+.

reactant | 5-nitrocyclobutabenzen-1(2H)-one | 5.52 mmol, 900 mg | [N+](=O)([O-])C=1C=CC2=C(C1)C(C2)=O | C8H5NO3
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.55 mmol, 587 mg | [Pd] | Pd
product | 5-aminocyclobutabenzen-1(2H)-one | NC=1C=CC2=C(C1)C(C2)=O | C8H7NO
